US08222200B2
4.2. 4-Methyl-3-pentyl-oxazolidin-2-one
4-Methyl-oxazolidin-2-one (18.0 g, 178 mmol) in THF (100 ml) was added slowly via dropping funnel to a slurry of hexane-washed NaH (60% in mineral oil, 7.12 g, 178 mmol, 1.0 quiv.) in THF (400 ml) upon which H2-evolution was observed. Neat iodopentane (70.51 g, 356 mmol, 2.0 equiv.) was added rapidly and the mixture stirred for 1 h at room temperature, then heated to reflux for 60 h. After cooling to 5° C., 2N H2SO4 (180 ml) was slowly added. The mixture was extracted with MTBE and worked up as usual. Distillation over a Widmer-column at 115° C./0.08 mbar afforded the product as a slightly yellow liquid (20.54 g, 73%).

reactant | 4-Methyl-oxazolidin-2-one | 178 mmol, 18.0 g | CC1NC(OC1)=O | C4H7NO2
reactant | NaH | 178 mmol, 7.12 g | [H-].[Na+]
reactant | iodopentane | 356 mmol, 70.51 g, 2.0 equiv. | ICCCCC | C5H11I
reactant | H2SO4 | 2N, 180 ml | OS(=O)(=O)O | H2O4S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-Methyl-3-pentyl-oxazolidin-2-one | 20.54 g, 73% | CC1N(C(OC1)=O)CCCCC | C9H17NO2
